US07741321B2
Z. 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid [6-(4-dimethylamino-phenyl)-pyridin-2-yl]-amide
1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid (6-bromo-pyridin-2-yl)-amide (36 mg, 0.10 mmol) was dissolved in 1 mL of N,N-dimethylformamide in a reaction tube. 4-(Dimethylamino)phenylboronic acid (21 mg, 0.13 mmol), 0.1 mL of an aqueous 2 M potassium carbonate solution, and (Pd(dppf)Cl2 (6.6 mg, 0.0090 mmol) were added and the reaction mixture was heated at 80° C. for three hours. The resulting material was cooled to room temperature, filtered, and purified by reverse-phase preparative liquid chromatography to yield the pure product as a trifluoroacetic acid salt. ESI-MS m/z calc. 401.2. found 402.5 (M+1)+. Retention time 2.96 minutes. 1H NMR (400 MHz, CD3CN) δ 1.23-1.27 (m, 2H), 1.62-1.66 (m, 2H), 3.04 (s, 6H), 6.06 (s, 2H), 6.88-6.90 (m, 2H), 6.93-6.96 (m, 1H), 7.05-7.07 (m, 2H), 7.53-7.56 (m, 1H), 7.77-7.81 (m, 3H), 7.84-7.89 (m, 1H), 8.34 (s, 1H).

reactant | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid (6-bromo-pyridin-2-yl)-amide | 0.10 mmol, 36 mg | BrC1=CC=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C16H13BrN2O3
reactant | 4-(Dimethylamino)phenylboronic acid | 0.13 mmol, 21 mg | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | potassium carbonate | 2 M | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.0090 mmol, 6.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Benzo[1,3]dioxol-5-yl-cyclopropanecarboxylic acid [6-(4-dimethylamino-phenyl)-pyridin-2-yl]-amide | CN(C1=CC=C(C=C1)C1=CC=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1)C | C24H23N3O3
